US04539208
Z-2-Isovaleramido-2-butenoic Acid
A solution of 1.07 g (10.5 mmole) of 2-ketobutyric acid and 0.71 g (7.0 mmole) of isovaleramide in 15 ml of toluene was stirred under reflux with collection of H2O in a small Dean-Stark trap. After 5 hrs, the solution was cooled, resulting in fairly heavy crystallization. After standing, the solid was collected on a filter and washed with toluene and then with CH2Cl2. Yield of white crystals=0.47 g, mp 172°-174° (slight prelim. softening). The material was recrystallized from diisopropyl ketone. Tlc (4:1 toluene-AcOH) now showed only a faint trace of the other isomer. Yield of white crystals=0.32 g (25%), mp 175° (slight prelim. softening). NMR indicated essentially exclusively Z-isomer.

reactant | 2-ketobutyric acid | 10.5 mmole, 1.07 g | O=C(C(=O)O)CC | C4H6O3
reactant | isovaleramide | 7.0 mmole, 0.71 g | C(CC(C)C)(=O)N | C5H11NO
reactant | H2O | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | Z-2-Isovaleramido-2-butenoic Acid | C(CC(C)C)(=O)N\C(\C(=O)O)=C/C | C9H15NO3
